US07129232B2
To a solution of 1-methyl-N5-trityl-1H-pyrazole-4,5-diamine (4 g) in dichloromethane (100 ml) was added tert-butyl 4-{[(2,5-dioxo-1-pyrrolidinyl)oxy]carbonyl}-1-piperidinecarboxylate (4.05 g), and the mixture was refluxed for 72 hours. The reaction mixture was washed successively with water 10% aqueous citric acid solution, water and brine. The extract was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give tert-butyl 4-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)-1-piperidinecarboxylate (1.806 g).

reactant | 1-methyl-N5-trityl-1H-pyrazole-4,5-diamine | 4 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C23H22N4
reactant | tert-butyl 4-{[(2,5-dioxo-1-pyrrolidinyl)oxy]carbonyl}-1-piperidinecarboxylate | 4.05 g | O=C1N(C(CC1)=O)OC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O6
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | tert-butyl 4-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)-1-piperidinecarboxylate | 1.806 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C34H39N5O3
